US05252732
17-Ethyl-1,14-dihydroxy-12-[2'-(4"-(1-N-methyl-5-indolyl)oxy-3"-n-propyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-1,14-dihydroxy-12-[2'-(4"-(1-N-methyl-5-indolyl)oxy-3"-allyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (14 mg) in ethyl acetate (400 μl) was added rhodium on carbon (4 mg). The flask was filled with hydrogen, and the mixture was stirred at room temperature. After 1.5 hours the mixture was filtered through Celite then the solvent was removed in vacuo. Purification by flash chromatography (ethyl acetate:hexane (1:1)+1% methanol) gave the title compound (10 mg). partial 1H NMR d: 7.17 (s, 1H); 7.15 (d, J=9 Hz, 1H); 6.97 (d, J=3 Hz, 1H); 6.92 (dd, J=9, 3 Hz, 1H); 6.34 (d, J=3 Hz, 1H); 4.56 (brd, J=4 Hz, 1H); 4.40 (brd, J= 14 Hz, 1H); 3.71 (s, 3H).

reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-(1-N-methyl-5-indolyl)oxy-3"-allyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 14 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC=2C=C1C=CN(C1=CC2)C)OCC=C)C)C)O)=O | C54H78N2O12
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 400 μl | C(C)(=O)OCC | C4H8O2
catalyst | rhodium on carbon | 4 mg | [Rh] | Rh
product | 17-Ethyl-1,14-dihydroxy-12-[2'-(4"-(1-N-methyl-5-indolyl)oxy-3"-n-propyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 10 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC=2C=C1C=CN(C1=CC2)C)OCCC)C)C)O)=O | C54H80N2O12
